US20010018099A1
A mixture of N-[3-(perfluorooctyl)phenyl]-2,4-dinitrobenzenamine (5.4 g), allyl bromide (1.5 mL), potassium carbonate (2.6 g) and N-methyl pyrrolidone (15 mL) was heated to 60-70° C. for 5.5 hr. Extraction in the normal fashion gave 5.6 g of N-allyl-N-[3-(perfluorooctyl)phenyl]-2,4-dinitrobenzenamine.

reactant | N-[3-(perfluorooctyl)phenyl]-2,4-dinitrobenzenamine | 5.4 g | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C=1C=C(C=CC1)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])F | C20H8F17N3O4
reactant | allyl bromide | 1.5 mL | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 2.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methyl pyrrolidone | 15 mL | CN1C(CCC1)=O | C5H9NO
product | N-allyl-N-[3-(perfluorooctyl)phenyl]-2,4-dinitrobenzenamine | 5.6 g | C(C=C)N(C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])C1=CC(=CC=C1)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C23H12F17N3O4
